US05362744
N'-(2,4-Difluorophenyl)-N-(2-dodecyl-2H-tetrazol-5-yl)-N-phenyl-urea
In a manner similar to Example 1, 2-dodecyl-N-phenyl-2H-tetrazol-5-amine was reacted with triphosgene and 2,4-difluoroaniline to give the title compound, mp=55°-57° C.

reactant | 2-dodecyl-N-phenyl-2H-tetrazol-5-amine | C(CCCCCCCCCCC)N1N=C(N=N1)NC1=CC=CC=C1 | C19H31N5
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
product | N'-(2,4-Difluorophenyl)-N-(2-dodecyl-2H-tetrazol-5-yl)-N-phenyl-urea | FC1=C(C=CC(=C1)F)NC(N(C1=CC=CC=C1)C=1N=NN(N1)CCCCCCCCCCCC)=O | C26H34F2N6O
